US06987114B1
1-(3-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 3-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (176 mg, yield: 43.4%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 3-cyanobenzyl bromide | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
product | 1-(3-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 176 mg, yield: 43.4% | C(#N)C=1C=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=CC1 | C23H23N3O2S
